US08222248B2
A suspension of 5-nitro-m-xylene (1.51 g) and 10% Pd/C (80 mg) in MeOH (50 mL) was stirred at room temperature under H2 balloon for 16 h. The reaction mixture was filtered through a Celite pad, washed with EtOAc, concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=5:95 to 40:60) to give 3,5-dimethyl-phenylamine as a yellow oil: MS (m/z) 122 (M+1); 1H NMR (CDCl3, 400 MHz) δ 6.41 (s, 1H), 6.33 (s, 2H), 3.52 (s, 2H), 2.22 (s, 6H).

reactant | 5-nitro-m-xylene | 1.51 g | [N+](=O)([O-])C=1C=C(C=C(C1)C)C | C8H9NO2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 3,5-dimethyl-phenylamine | CC=1C=C(C=C(C1)C)N | C8H11N
